US07456164B2
1-{4-[4-(3-Pyrrolidin-1-ylpropoxy)phenyl]tetrahydropyran-4-ylmethyl}pyrrolidine
To a stirred solution of {4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydropyran-4-yl}methylamine (150 mg, 0.47 mmol) and 1-bromo-4-chloroethane (54.2 μL, 0.47 mmol) in anhydrous acetonitrile (5 mL) was added potassium carbonate (65 mg, 0.47 mmol). The mixture was heated to 60° C. overnight then concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel eluting with DCM:MeOH:NH3 (94:5:1) to give the title compound (40 mg, 23% yield). 1H NMR (400 MHz, CDCl3) δ 7.20 (d, 2H), 6.86 (d, 2H), 4.02 (t, 2H), 3.73-3.78 (m, 2H), 3.57-3.53 (m, 2H), 2.65-2.61 (m, 4H), 2.53 (m, 4H), 2.20 (m, 4H), 2.10-1.88 (m, 6H), 1.56 (m, 4H).

reactant | {4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydropyran-4-yl}methylamine | 0.47 mmol, 150 mg | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)CN | C19H30N2O2
reactant | potassium carbonate | 0.47 mmol, 65 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 1-{4-[4-(3-Pyrrolidin-1-ylpropoxy)phenyl]tetrahydropyran-4-ylmethyl}pyrrolidine | 40 mg, 23% yield | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)CN1CCCC1 | C23H36N2O2
